US04914226
(a) N-[(tert-butoxy)carbonyl]-3-chloro-propylamine
The compound of the title, employed as the starting material in example 1, is prepared by slowly adding a solution of 3-chloro-propylamine hydrochloride (12.98 g, 0.1 mol) in dioxane/water (100 ml 2/1 v/v) to a vigorously stirred mixture of di-(tert-butyl)carbonate (24 g, 0.11 mol), 1N Na2CO3 (100 ml) and dioxane/water (200 ml, 2/1 v/v) cooled to 0° C. When the addition is over, the reaction mixture is stirred at room temperature for an additional hour, dioxane is removed under vacuum and the aqueous phase is extracted a few times with ethyl acetate.

reactant | 3-chloro-propylamine hydrochloride | 0.1 mol, 12.98 g | Cl.ClCCCN
reactant | di-(tert-butyl)carbonate | 0.11 mol, 24 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
reactant | Na2CO3 | 1N, 100 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane water | 100 ml | O1CCOCC1.O
solvent | dioxane water | 200 ml | O1CCOCC1.O
product | N-[(tert-butoxy)carbonyl]-3-chloro-propylamine | C(C)(C)(C)OC(=O)NCCCCl | C8H16ClNO2
